**************************************************************
*  Electronic circuit simulation file generated by gSpiceUI  *
*             Version 0.9.98 Alpha (14/10/2009)              *
**************************************************************

* /home/mru/dev/08amp/doc/power-sim.oregano

* Include Directives
.include /usr/share/oregano/models/DiodeBridge.model

* Component Definitions
C_C1 1 0 10000u
C_C2 1 0 100n IC=0
C_C3 1 4 100n IC=0
R_R1 1 0 2200
R_R3 4 0 1
R_R4 3 2 1
R_R5 1 0 500
* Signal source (V_V1 3 5 dc 0.0 ac 1.0 sin(0.0 30.0 50.0 0 0))
V_V1 3 5 GENERATOR(1)
X_D1 0 2 5 1 DiodeBridge

* GNU-Cap Simulation Commands
.OPTIONS NOPAGE VMAX=40.00 VMIN=-40.00
.PRINT TR V(C_C1) V(C_C2) V(C_C3) V(R_R1) V(R_R3) V(R_R4) V(R_R5) V(V_V1) V(1) V(2) V(3) V(4) V(5)
.GENERATOR AMP=30.00 OFFSET=0.00 FREQ=50.00 PHASE=0.00
.TR 0.00 70.00 10.00m TE 27.00 BASIC

.END

